US05977152
(E)-5-[4-(Trifluoromethyl)phenyl]-2-penten-4-ynal
In 4 ml of methylene chloride were dissolved 350 mg (1.56 mmol) of (E)-5-[4-(trifluoromethyl)phenyl]-2-penten-4-yn-1-ol, and 3.5 g of active manganese dioxide were added to the solution, followed by stirring of the resulting mixture at room temperature for 30 minutes. The solid was removed by filtration and the filtrate was concentrated. Then, the filtrate was subjected to column chromatography using 10 g of silica gel and eluted with a mixed solvent of ethyl acetate-hexane (1:24) to obtain 245 mg (yield: 70%) of the title compound as an oil.

reactant | (E)-5-[4-(trifluoromethyl)phenyl]-2-penten-4-yn-1-ol | 1.56 mmol, 350 mg | FC(C1=CC=C(C=C1)C#C/C=C/CO)(F)F | C12H9F3O
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 3.5 g | [O-2].[O-2].[Mn+4]
product | (E)-5-[4-(Trifluoromethyl)phenyl]-2-penten-4-ynal | 245 mg, yield: 70% | FC(C1=CC=C(C=C1)C#C/C=C/C=O)(F)F | C12H7F3O
